US07371747B2
Synthesis of trans-N-cyanomethyl-2-[4-(4-sulfanylphenylsulfanyl)-phenylsulfanylmethyl)-cyclohexanecarboxamide
trans-2-Bromomethyl-cyclohexanecarboxylic acid cyanomethylamide (259 mg) and cesium carbonate (340 mg) were weighed into a 15 mL vial fitted with a stir bar and a vent cap. Acetone (3 mL) and 4-mercaptothiophenol (256 mg) were added. The reaction mixture was stirred at 50° C. overnight and then diluted with hot acetone (7 mL) and filtered through Celite™. The Celite™ was washed with hot acetone (25 mL). The filtrate and wash were combined and the solvent was removed on a rotary evaporator. Chromatography of the crude product on C-18 reverse-phase HPLC provided the title compound as a cream solid. 1H NMR (DMSO-d6): δ=8.65 (1H, t), 7.46 (2H, dd), 7.27 (4H, d), 7.21 (2H, dd), 4.12 (2H, d), 3.50 (1H, br m), 2.98 (1H, d), 2.6 (1H, m), 2.1 (2H, m), 1.7 (4H, m), 1.1 (4H, m).

reactant | trans-2-Bromomethyl-cyclohexanecarboxylic acid cyanomethylamide | 259 mg | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)CBr | C10H15BrN2O
reactant | cesium carbonate | 340 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-mercaptothiophenol | 256 mg | SC1=CC=C(C=C1)S | C6H6S2
solvent | acetone | 7 mL | CC(=O)C | C3H6O
solvent | Acetone | 3 mL | CC(=O)C | C3H6O
product | trans-N-cyanomethyl-2-[4-(4-sulfanylphenylsulfanyl)-phenylsulfanylmethyl)-cyclohexanecarboxamide | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)CSC1=CC=C(C=C1)SC1=CC=C(C=C1)S | C22H24N2OS3
